US04450164
2-Methyl-8-hydroxymethylimidazo[1,2-a]pyridine 21.4 g (0.13 mol) is dissolved in 400 ml dichloromethane. To the solution at 0° C. is added dropwise with stirring 19 ml of thionyl chloride. The reaction mixture is stirred for one hour and the dichloromethane is removed under reduced pressure. The residue is dissolved in distilled water, neutralizedat 0° C. with ammonium hydroxide and extracted with dichloromethane.The extracts are combined and dried over anhydrous sodium sulfate. Following filtration, the dichloromethane is removed under reduced pressure to give 2-methyl-8-chloromethylimidazo[1,2-a]pyridine, mp. 110°-112° C.

reactant | 2-Methyl-8-hydroxymethylimidazo[1,2-a]pyridine | 0.13 mol, 21.4 g | CC=1N=C2N(C=CC=C2CO)C1 | C9H10N2O
reactant | thionyl chloride | 19 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-methyl-8-chloromethylimidazo[1,2-a]pyridine | CC=1N=C2N(C=CC=C2CCl)C1 | C9H9ClN2
